US04652668
N-(1-Cyano-3-Phenylpropyl)-L-Alanine Benzylester (4.24 g) is then dissolved in 65 ml dry dichloromethane and diluted with 2.39 g absolute ethanol. After cooling on ice, the solution is saturated with dry HCl, stored for 2 days at 0°-5° C., and evaporated to form a residue which is dissolved in 30 ml of a 2:1 acetonitrile:water mixture at room temperature for 15 minutes. An excess of aqueous NaHCO3 is then added to the mixture, which is extracted with chloroform several times, dried over MgSO4, and placed under vacuum to evaporate the solvent, yielding N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine Benzylester [TLC (Silica gel; CHCl3 /acetone=9:1); Rf=0.60].

reactant | N-(1-Cyano-3-Phenylpropyl)-L-Alanine Benzylester | 4.24 g | C(C1=CC=CC=C1)OC([C@@H](NC(CCC1=CC=CC=C1)C#N)C)=O | C20H22N2O2
reactant | HCl | Cl | ClH
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 2.39 g | C(C)O | C2H6O
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(1-Ethoxycarbonyl-3-Phenylpropyl)-L-Alanine Benzylester | C(C1=CC=CC=C1)OC([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCC)C)=O | C22H27NO4
